US08492559B2
Stage IV: 2-(7-((tert-Butoxycarbonylamino)methyl)-1H-indol-1-yl)acetic acid
1 N NaOH (6 ml) was added at 0° C. to a solution of 2-(7-(aminomethyl)-1H-indol-1-yl)acetic acid (692 mg, 3.36 mmol, 1.0 equiv.) in dioxane, followed by (Boc)2O (1.1 ml, 5.08 mmol, 1.5 equiv.). The resulting reaction mixture was stirred for 16 h at RT and then the solvent was removed under vacuum. The residue was taken up in water (25 ml) and extracted with ethyl acetate (2×20 ml). The aqueous phase was then adjusted to an acidic pH value with KHSO4 solution at 0° C. Extraction with DCM (3×30 ml) was then carried out, and the combined organic phases were washed with sat. NaCl solution (40 ml), dried over Na2SO4 and concentrated under vacuum. The crude product so obtained was used directly in the following stage without being purified further.

reactant | NaOH | 1 N, 6 ml | [OH-].[Na+]
reactant | 2-(7-(aminomethyl)-1H-indol-1-yl)acetic acid | 3.36 mmol, 692 mg, 1.0 equiv. | NCC=1C=CC=C2C=CN(C12)CC(=O)O | C11H12N2O2
reactant | (Boc)2O | 5.08 mmol, 1.1 ml, 1.5 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(7-((tert-Butoxycarbonylamino)methyl)-1H-indol-1-yl)acetic acid | Yield: 36% | C(C)(C)(C)OC(=O)NCC=1C=CC=C2C=CN(C12)CC(=O)O | C16H20N2O4
